US07112553B1
Step 4—Preparation of methyl (benzotriazol-5-yl)acetate
Methyl 4-acetamido-3-aminophenylacetate (77 g, 0.373 mol) was taken up in a mixture of acetic acid (210 ml) and water (210 ml) and cooled to below 5° C. A solution of sodium nitrite (38.63 g, 0.559 mol) in water (200 ml) was added dropwise, and once the addition was complete the mixture was stirred for 4 hours, warming slowly to room temperature. The mixture was diluted with ethyl acetate and the insoluble material removed by filtration. The filtrate was washed with brine, dried over anhydrous magnesium sulfate, filtered and the solvent evaporated in vacuo, to give a viscous residue (51 g) which was then dissolved in a solution of methanol (400 ml) previously saturated with hydrogen chloride and the mixture stirred for 2 hours. The solvent was removed in vacuo, the residue taken up in water, neutralised with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated in vacuo to afford methyl 5-benzotriazoleacetate (35 g) as a reddish liquid which crystallised on standing.

reactant | Methyl 4-acetamido-3-aminophenylacetate | 0.373 mol, 77 g | C(C)(=O)NC1=C(C=C(C=C1)CC(=O)OC)N | C11H14N2O3
reactant | sodium nitrite | 0.559 mol, 38.63 g | N(=O)[O-].[Na+]
solvent | acetic acid | 210 ml | C(C)(=O)O | C2H4O2
solvent | water | 210 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (benzotriazol-5-yl)acetate | 51 g | N1N=NC2=C1C=CC(=C2)CC(=O)OC | C9H9N3O2
